US06703392B2
2-[1-(3-Bromo-4-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(1,2,3,4-tetrahydro-naphthalen-1-yl)-acetamide:
prepared by reaction of 1-(3-Bromo-4-methoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 1,2,3,4-tetrahydro-1-naphthylamine

reactant | 1-(3-Bromo-4-methoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | BrC=1C=C(CC2NCCC3=CC(=C(C=C23)OC)OC)C=CC1OC | C19H22BrNO3
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 1,2,3,4-tetrahydro-1-naphthylamine | C1(CCCC2=CC=CC=C12)N | C10H13N
product | 2-[1-(3-Bromo-4-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(1,2,3,4-tetrahydro-naphthalen-1-yl)-acetamide | BrC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NC2CCCC3=CC=CC=C23)C=CC1OC | C31H35BrN2O4
